US07495001B2
K] [rac]-1-[2-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethanol
0.470 g (1.77 mmol) of the above prepared 2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine-3-carbaldehyde was dissolved in 9 ml of abs. THF and treated at −10° C. with 0.89 ml of 3M methyl magnesium chloride solution (in THF). After 15 Min., the reaction mixture was carefully poured onto crashed ice/NH4Cl, extracted twice with AcOEt, washed with water and brine, dried over sodium sulfate, and evaporated to dryness to leave 0.508 g of the title product, pure according to NMR.

reactant | 2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine-3-carbaldehyde | CC1=NC(=CC=C1C=O)C1=CC=C(C=C1)C(F)(F)F | C14H10F3NO
reactant | methyl magnesium chloride | 3M, 0.89 ml | C[Mg]Cl
solvent | THF | C1CCOC1 | C4H8O
product | [rac]-1-[2-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethanol | 0.508 g | CC1=NC(=CC=C1C(C)O)C1=CC=C(C=C1)C(F)(F)F | C15H14F3NO
